US07683067B2
2-Hydroxy-3-[5-(piperazine-1-sulfonyl)pyridin-2-yl]-1H-indole-6-carbonitrile hydrochloride
To a suspension of sodium hydride (97%, 0.024 g, 1.0 mmol) in 1-methyl-2-pyrrolidinone (2 mL) was added 2-oxoindoline-6-carbonitrile (0.119 g, 0.75 mmol). The formed mixture was stirred for 5 min at room temperature and tert-butyl 4-[(6-chloropyridin-3-yl)sulfonyl]piperazine-1-carboxylate (0.181 g, 0.5 mmol) was added. The resulting reaction mixture was set under an N2 atmosphere and stirred for 1 h at 90° C. Methanol (0.5 mL) was added to the mixture and the solvents were removed in vacuo. The crude product was dissolved in methanol (5 mL) and HCl in diethyl ether (4 M, 2.5 mL, 10 mmol) was added followed by reflux for 3 h. From the cooled solution the formed yellow precipitate was collected by filtration and dried to give 0.209 g (92% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 11.08 (s, 1H), 9.10 (br s, 2H), 8.67 (s, 1H), 7.89 (s, 2H), 7.78 (d, J=8.0 Hz, 1H), 7.44 (dd, J=8.0, 1.2 Hz, 1H), 7.28 (d, J=1.2 Hz, 1H) 3.31 (br s, 4H), 3.25 (br s, 4H); MS (EI) m/z 384 (M++1).

reactant | sodium hydride | 1.0 mmol, 0.024 g | [H-].[Na+]
reactant | 2-oxoindoline-6-carbonitrile | 0.75 mmol, 0.119 g | O=C1NC2=CC(=CC=C2C1)C#N | C9H6N2O
reactant | tert-butyl 4-[(6-chloropyridin-3-yl)sulfonyl]piperazine-1-carboxylate | 0.5 mmol, 0.181 g | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C14H20ClN3O4S
reactant | HCl | Cl | ClH
reactant | diethyl ether | 10 mmol, 4 M, 2.5 mL | C(C)OCC | C4H10O
solvent | 1-methyl-2-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
solvent | Methanol | 0.5 mL | CO | CH4O
product | 2-Hydroxy-3-[5-(piperazine-1-sulfonyl)pyridin-2-yl]-1H-indole-6-carbonitrile hydrochloride | 0.209 g, 92% yield | Cl.OC=1NC2=CC(=CC=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCNCC1)C#N | InChI=1S/C18H17N5O3S.ClH/c19-10-12-1-3-14-16(9-12)22-18(24)17(14)15-4-2-13(11-21-15)27(25,26)23-7-5-20-6-8-23;/h1-4,9,11,20,22,24H,5-8H2;1H
